.title kicad schematic

.include 74LS154.sub
r8 gnd v_y7n 1k
* u12 v_y7n plot_v1
* u2 net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ v_y8n v_y9n v_y10n dac_bridge_3
* u1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ v_y0n v_y1n v_y2n v_y3n v_y4n v_y5n v_y6n v_y7n dac_bridge_8
* u9 v_y0n plot_v1
* u5 v_y2n plot_v1
* u7 v_y1n plot_v1
* u6 v_y3n plot_v1
* u8 v_y4n plot_v1
* u11 v_y6n plot_v1
* u10 v_y5n plot_v1
r10 gnd v_y9n 1k
r11 gnd v_y10n 1k
r1 gnd v_y0n 1k
r3 gnd v_y2n 1k
r2 gnd v_y1n 1k
r7 gnd v_y6n 1k
r6 gnd v_y5n 1k
r5 gnd v_y4n 1k
r4 gnd v_y3n 1k
r9 gnd v_y8n 1k
r15 gnd v_y14n 1k
* u13 v_y10n plot_v1
* u14 v_y9n plot_v1
* u15 v_y8n plot_v1
r14 gnd v_y13n 1k
v_a0 net-_v_a0-pad1_ gnd  dc 5
v_a2 net-_v_a2-pad1_ gnd  dc 0
v_a1 net-_v_a1-pad1_ gnd  dc 5
v_e1n1 net-_v_e1n1-pad1_ gnd  dc 0
v_a3 net-_v_a3-pad1_ gnd  dc 0
* u20 v_y12n plot_v1
* u19 v_y13n plot_v1
* u17 v_y11n plot_v1
x1 net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ gnd net-_u3-pad5_ net-_u3-pad4_ net-_u3-pad3_ net-_u3-pad2_ net-_u3-pad1_ net-_u4-pad12_ net-_u4-pad11_ net-_u4-pad10_ net-_u4-pad9_ net-_u4-pad8_ net-_u4-pad7_ net-_v1-pad1_ 74LS154
v1 net-_v1-pad1_ gnd 5
r12 gnd v_y11n 1k
* u3 net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ v_y15n v_y14n v_y13n v_y12n v_y11n dac_bridge_5
* u4 net-_v_a0-pad1_ net-_v_a1-pad1_ net-_v_a2-pad1_ net-_v_a3-pad1_ net-_v_e1n1-pad1_ net-_v_e0n1-pad1_ net-_u4-pad7_ net-_u4-pad8_ net-_u4-pad9_ net-_u4-pad10_ net-_u4-pad11_ net-_u4-pad12_ adc_bridge_6
v_e0n1 net-_v_e0n1-pad1_ gnd  dc 0
* u16 v_y15n plot_v1
r16 gnd v_y15n 1k
* u18 v_y14n plot_v1
r13 gnd v_y12n 1k
a1 [net-_u2-pad1_ net-_u2-pad2_ net-_u2-pad3_ ] [v_y8n v_y9n v_y10n ] u2
a2 [net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ net-_u1-pad8_ ] [v_y0n v_y1n v_y2n v_y3n v_y4n v_y5n v_y6n v_y7n ] u1
a3 [net-_u3-pad1_ net-_u3-pad2_ net-_u3-pad3_ net-_u3-pad4_ net-_u3-pad5_ ] [v_y15n v_y14n v_y13n v_y12n v_y11n ] u3
a4 [net-_v_a0-pad1_ net-_v_a1-pad1_ net-_v_a2-pad1_ net-_v_a3-pad1_ net-_v_e1n1-pad1_ net-_v_e0n1-pad1_ ] [net-_u4-pad7_ net-_u4-pad8_ net-_u4-pad9_ net-_u4-pad10_ net-_u4-pad11_ net-_u4-pad12_ ] u4
* Schematic Name:                             dac_bridge_3, Ngspice Name: dac_bridge
.model u2 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_8, Ngspice Name: dac_bridge
.model u1 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_5, Ngspice Name: dac_bridge
.model u3 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_6, Ngspice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 5e-00 100e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(v_y7n)
plot v(v_y0n)
plot v(v_y2n)
plot v(v_y1n)
plot v(v_y3n)
plot v(v_y4n)
plot v(v_y6n)
plot v(v_y5n)
plot v(v_y10n)
plot v(v_y9n)
plot v(v_y8n)
plot v(v_y12n)
plot v(v_y13n)
plot v(v_y11n)
plot v(v_y15n)
plot v(v_y14n)
.endc
.end
