* Subcircuit 74LS154
.subckt 74LS154 net-_u1-pad2_ net-_u2-pad2_ net-_u2-pad3_ net-_u2-pad4_ net-_u2-pad5_ net-_u12-pad2_ net-_u13-pad2_ net-_u16-pad2_ net-_u19-pad2_ net-_u2-pad10_ net-_u2-pad11_ gnd net-_u2-pad13_ net-_u2-pad14_ net-_u2-pad15_ net-_u2-pad16_ net-_u2-pad17_ net-_u2-pad18_ net-_u2-pad19_ net-_u2-pad20_ net-_u17-pad1_ net-_u14-pad1_ net-_u10-pad1_ gnd 
.title kicad schematic
.include 5_and.sub
* u11 net-_x1-pad5_ net-_u11-pad2_ d_inverter
* u10 net-_u10-pad1_ net-_x1-pad5_ d_inverter
* u14 net-_u14-pad1_ net-_x1-pad4_ d_inverter
* u21 net-_u2-pad20_ net-_u21-pad2_ d_inverter
* u17 net-_u17-pad1_ net-_x1-pad3_ d_inverter
* u3 net-_u2-pad18_ net-_u3-pad2_ d_inverter
* u5 net-_u2-pad19_ net-_u4-pad2_ d_inverter
* u4 net-_u3-pad2_ net-_u4-pad2_ net-_u4-pad3_ d_and
* u9 net-_u9-pad1_ net-_u2-pad5_ d_inverter
x6 net-_u4-pad3_ net-_x1-pad4_ net-_u21-pad2_ net-_u11-pad2_ net-_u18-pad2_ net-_u12-pad1_ 5_and
x5 net-_u4-pad3_ net-_x1-pad5_ net-_x1-pad4_ net-_u21-pad2_ net-_u18-pad2_ net-_u9-pad1_ 5_and
x1 net-_u4-pad3_ net-_u21-pad2_ net-_x1-pad3_ net-_x1-pad4_ net-_x1-pad5_ net-_u1-pad1_ 5_and
* u1 net-_u1-pad1_ net-_u1-pad2_ d_inverter
x2 net-_u4-pad3_ net-_x1-pad4_ net-_x1-pad3_ net-_u21-pad2_ net-_u11-pad2_ net-_u6-pad1_ 5_and
* u6 net-_u6-pad1_ net-_u2-pad2_ d_inverter
* u7 net-_u7-pad1_ net-_u2-pad3_ d_inverter
* u8 net-_u8-pad1_ net-_u2-pad4_ d_inverter
x3 net-_u4-pad3_ net-_x1-pad5_ net-_x1-pad3_ net-_u21-pad2_ net-_x11-pad4_ net-_u7-pad1_ 5_and
x4 net-_u4-pad3_ net-_x1-pad3_ net-_u21-pad2_ net-_u11-pad2_ net-_x11-pad4_ net-_u8-pad1_ 5_and
* u22 net-_u21-pad2_ net-_u22-pad2_ d_inverter
* u15 net-_x1-pad4_ net-_x11-pad4_ d_inverter
* u18 net-_x1-pad3_ net-_u18-pad2_ d_inverter
* u26 net-_u26-pad1_ net-_u2-pad15_ d_inverter
x14 net-_u4-pad3_ net-_x1-pad4_ net-_u11-pad2_ net-_u18-pad2_ net-_u22-pad2_ net-_u26-pad1_ 5_and
x15 net-_u4-pad3_ net-_x1-pad5_ net-_x11-pad4_ net-_u18-pad2_ net-_u22-pad2_ net-_u27-pad1_ 5_and
* u27 net-_u27-pad1_ net-_u2-pad16_ d_inverter
x16 net-_u4-pad3_ net-_u11-pad2_ net-_x11-pad4_ net-_u18-pad2_ net-_u22-pad2_ net-_u28-pad1_ 5_and
* u28 net-_u28-pad1_ net-_u2-pad17_ d_inverter
x12 net-_u4-pad3_ net-_x1-pad3_ net-_u11-pad2_ net-_x11-pad4_ net-_u22-pad2_ net-_u24-pad1_ 5_and
x13 net-_u4-pad3_ net-_x1-pad5_ net-_x1-pad4_ net-_u18-pad2_ net-_u22-pad2_ net-_u25-pad1_ 5_and
* u25 net-_u25-pad1_ net-_u2-pad14_ d_inverter
* u24 net-_u24-pad1_ net-_u2-pad13_ d_inverter
x7 net-_u4-pad3_ net-_x1-pad5_ net-_u21-pad2_ net-_x11-pad4_ net-_u18-pad2_ net-_u13-pad1_ 5_and
x8 net-_u4-pad3_ net-_u21-pad2_ net-_u11-pad2_ net-_x11-pad4_ net-_u18-pad2_ net-_u16-pad1_ 5_and
* u12 net-_u12-pad1_ net-_u12-pad2_ d_inverter
* u13 net-_u13-pad1_ net-_u13-pad2_ d_inverter
* u20 net-_u20-pad1_ net-_u2-pad10_ d_inverter
* u19 net-_u19-pad1_ net-_u19-pad2_ d_inverter
x10 net-_u4-pad3_ net-_x1-pad4_ net-_x1-pad3_ net-_u11-pad2_ net-_u22-pad2_ net-_u20-pad1_ 5_and
x11 net-_u4-pad3_ net-_x1-pad5_ net-_x1-pad3_ net-_x11-pad4_ net-_u22-pad2_ net-_u23-pad1_ 5_and
x9 net-_u4-pad3_ net-_x1-pad5_ net-_x1-pad4_ net-_x1-pad3_ net-_u22-pad2_ net-_u19-pad1_ 5_and
* u23 net-_u23-pad1_ net-_u2-pad11_ d_inverter
* u16 net-_u16-pad1_ net-_u16-pad2_ d_inverter
a1 net-_x1-pad5_ net-_u11-pad2_ u11
a2 net-_u10-pad1_ net-_x1-pad5_ u10
a3 net-_u14-pad1_ net-_x1-pad4_ u14
a4 net-_u2-pad20_ net-_u21-pad2_ u21
a5 net-_u17-pad1_ net-_x1-pad3_ u17
a6 net-_u2-pad18_ net-_u3-pad2_ u3
a7 net-_u2-pad19_ net-_u4-pad2_ u5
a8 [net-_u3-pad2_ net-_u4-pad2_ ] net-_u4-pad3_ u4
a9 net-_u9-pad1_ net-_u2-pad5_ u9
a10 net-_u1-pad1_ net-_u1-pad2_ u1
a11 net-_u6-pad1_ net-_u2-pad2_ u6
a12 net-_u7-pad1_ net-_u2-pad3_ u7
a13 net-_u8-pad1_ net-_u2-pad4_ u8
a14 net-_u21-pad2_ net-_u22-pad2_ u22
a15 net-_x1-pad4_ net-_x11-pad4_ u15
a16 net-_x1-pad3_ net-_u18-pad2_ u18
a17 net-_u26-pad1_ net-_u2-pad15_ u26
a18 net-_u27-pad1_ net-_u2-pad16_ u27
a19 net-_u28-pad1_ net-_u2-pad17_ u28
a20 net-_u25-pad1_ net-_u2-pad14_ u25
a21 net-_u24-pad1_ net-_u2-pad13_ u24
a22 net-_u12-pad1_ net-_u12-pad2_ u12
a23 net-_u13-pad1_ net-_u13-pad2_ u13
a24 net-_u20-pad1_ net-_u2-pad10_ u20
a25 net-_u19-pad1_ net-_u19-pad2_ u19
a26 net-_u23-pad1_ net-_u2-pad11_ u23
a27 net-_u16-pad1_ net-_u16-pad2_ u16
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u11 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u10 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u14 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u21 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u17 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u3 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u4 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u9 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u1 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u6 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u7 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u22 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u15 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u18 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u26 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u27 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u28 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u25 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u24 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u13 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u20 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u19 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u23 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 )
* Control Statements

.ends 74LS154